US08791119B2
To a solution of 39.5 g (179 mmol) of 5-chloro-4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile in 450 ml of acetonitrile are added 14.3 g (358 mmol) of powdered sodium hydroxide and 2.43 g (7.1 mmol) of tetrabutylammonium hydrogen sulfate, and the mixture is stirred vigorously for 30 minutes, 48.1 g (214 mmol) of tert-butyl(2-bromoethyl)-carbamate (CAS 39684-80-5) are then added and the mixture is then stirred for 17 hours at reflux. After cooling, the solvent is evaporated off under reduced pressure, and the residue is taken up in ethyl acetate. The organic phase is then washed with saturated sodium chloride solution and dried over sodium sulfate, and the solvent is evaporated off under reduced pressure to give 47.3 g of tert-butyl{2-[2-chloro-4-cyano-3-(3-fluorophenyl)-1H-pyrrol-1-yl]ethyl}-carbamate in the form of a beige-coloured powder after triturating in 150 ml of diisopropyl ether, filtering off and drying.

reactant | 5-chloro-4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile | 179 mmol, 39.5 g | ClC1=C(C(=CN1)C#N)C1=CC(=CC=C1)F | C11H6ClFN2
reactant | sodium hydroxide | 358 mmol, 14.3 g | [OH-].[Na+]
reactant | tert-butyl(2-bromoethyl)-carbamate | 214 mmol, 48.1 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium hydrogen sulfate | 7.1 mmol, 2.43 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl{2-[2-chloro-4-cyano-3-(3-fluorophenyl)-1H-pyrrol-1-yl]ethyl}-carbamate | 47.3 g | C(C)(C)(C)OC(NCCN1C(=C(C(=C1)C#N)C1=CC(=CC=C1)F)Cl)=O | C18H19ClFN3O2
